US05908929
25 gms of cephalexin monohydrate was suspended in 75 ml of water. To this under stirring, 5.75 gms of sodium bicarbonate was added. The solution were filtered and lyophilized to afford 24 gms of crystalline cephalexin sodium.

reactant | cephalexin monohydrate | 25 gms | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=CC=C3)N)SC1)C(=O)O.O
reactant | sodium bicarbonate | 5.75 gms | C([O-])(O)=O.[Na+]
solvent | water | 75 ml | O | H2O
product | cephalexin sodium | 24 gms, Yield=95% | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C3=CC=CC=C3)N)SC1)C(=O)[O-].[Na+] | InChI=1S/C16H17N3O4S.Na/c1-8-7-24-15-11(14(21)19(15)12(8)16(22)23)18-13(20)10(17)9-5-3-2-4-6-9;/h2-6,10-11,15H,7,17H2,1H3,(H,18,20)(H,22,23);/q;+1/p-1/t10-,11-,15-;/m1./s1
